US08377923B2
2-[(4-chloro-1-naphthyl)oxy]-2-methylpropanoic acid (6.66 g), WSC•monohydrochloride (6.0 g) and N,N-dimethylaminopyridine (200 mg) were dissolved in acetonitrile (70 ml), tert-butyl carbazate (4.0 g) was added thereto, followed by stirring at room temperature overnight. The solvent was concentrated under reduced pressure, water was added thereto, followed by extraction portionwise with chloroform, and the organic layer was washed with saturated brine. After drying over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (chloroform:methanol) to obtain tert-butyl 2-{2-[(4-chloro-1-naphthyl)oxy]-2-methylpropanoyl}hydrazinecarboxylate (6.10 g).

reactant | 2-[(4-chloro-1-naphthyl)oxy]-2-methylpropanoic acid | 6.66 g | ClC1=CC=C(C2=CC=CC=C12)OC(C(=O)O)(C)C | C14H13ClO3
reactant | tert-butyl carbazate | 4.0 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | tert-butyl 2-{2-[(4-chloro-1-naphthyl)oxy]-2-methylpropanoyl}hydrazinecarboxylate | 6.10 g | ClC1=CC=C(C2=CC=CC=C12)OC(C(=O)NNC(=O)OC(C)(C)C)(C)C | C19H23ClN2O4
